US07717964B2
Stage 2: Synthesis of 1,1′-{disulfanediylbis[ethane-2,1-diylimino(2-oxoethane-2,1-diyl)]}bis(4-methylpyridinium)dichloride
6.1 g of N,N′-(disulfanediyldiethane-2,1-diyl)bis(2-chloroacetamide) and 4.5 g of 4-picoline was dissolved in 50 ml of NMP and brought to 80° C. for 19 h. After cooling the mixture, with successive precipitations from acetone and drying under vacuum, 9.2 g of salts were recovered. The analyses showed that the product was in conformity. 1H NMR (400 MHz, D2O): 2.61 (s, 6H), 2.82 (t, 4H), 3.56 (t, 4H), 5.31 (s, 4H), 7.85 (d, 4H), 8.51 (d, 4H).

reactant | N,N′-(disulfanediyldiethane-2,1-diyl)bis(2-chloroacetamide) | 6.1 g | S(SCCNC(CCl)=O)CCNC(CCl)=O | C8H14Cl2N2O2S2
reactant | 4-picoline | 4.5 g | N1=CC=C(C=C1)C | C6H7N
solvent | NMP | 50 ml | CN1CCCC1=O | C5H9NO
product | 1,1′-{disulfanediylbis[ethane-2,1-diylimino(2-oxoethane-2,1-diyl)]}bis(4-methylpyridinium)dichloride | [Cl-].[Cl-].S(SCCNC(C[N+]1=CC=C(C=C1)C)=O)CCNC(C[N+]1=CC=C(C=C1)C)=O | InChI=1S/C20H26N4O2S2.2ClH/c1-17-3-9-23(10-4-17)15-19(25)21-7-13-27-28-14-8-22-20(26)16-24-11-5-18(2)6-12-24;;/h3-6,9-12H,7-8,13-16H2,1-2H3;2*1H
